US04058568
Preparation of 6-butylthio-1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione.
20 g. of 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione, prepared as in Example 1, were dissolved in 60 ml. of benzene and then 10 g. of n-butylmercaptan and a few crystals of ferric chloride were added. This reaction mixture was shaken for 24 hours (Parr shaker). When the benzene was evaporated a white solid was obtained. One recrystallization from benzene-Skelly B mixture yielded white crystals, m.p. 97°-98° C. The infrared spectrum showed strong carbonyl at 1750 cm-1.

reactant | 1,2,3,4,9,9-hexachloro-1,4,4a,8a-tetrahydro-1,4-methanonaphthalene-5,8-dione | ClC12C(=C(C(C3C(C=CC(C13)=O)=O)(C2(Cl)Cl)Cl)Cl)Cl | C11H4Cl6O2
reactant | n-butylmercaptan | C(CCC)S | C4H10S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 6-butylthio-1,2,3,4,9,9-hexachloro-1,4,4a,6,7,8a-hexahydro-1,4-methanonaphthalene-5,8-dione | C(CCC)SC1C(C2C3(C(=C(C(C2C(C1)=O)(C3(Cl)Cl)Cl)Cl)Cl)Cl)=O | C15H14Cl6O2S
